US06867198B2
3-(5-Hydroxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-methoxy-1H-indol-3-yl)-pyrrolidine-2,5-dione
Beginning with (5-(tert-butyldimethylsilyloxymethyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl]oxoacetic acid methyl ester and (6-methoxy-1H-indol-3-yl)acetamide, the title compound was prepared essentially as described in Example 1.

reactant | (5-(tert-butyldimethylsilyloxymethyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl]oxoacetic acid methyl ester | COC(C(=O)C1=CN2CC(CC3=CC=CC1=C23)CO[Si](C)(C)C(C)(C)C)=O | C21H29NO4Si
reactant | (6-methoxy-1H-indol-3-yl)acetamide | COC1=CC=C2C(=CNC2=C1)CC(=O)N | C11H12N2O2
product | 3-(5-Hydroxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-methoxy-1H-indol-3-yl)-pyrrolidine-2,5-dione | OCC1CN2C3=C(C=CC=C3C1)C(=C2)C2C(NC(C2C2=CNC1=CC(=CC=C21)OC)=O)=O | C25H23N3O4
